US08283359B2
2-[(4-Bromo-2-fluorophenyl)amino]thieno[2,3-b]pyridine-3-carbonitrile
4-Bromo-2-fluoro-1-isothiocyanatobenzene (250 mg, 1.08 mmol) and (2-chloropyridin-3-yl)acetonitrile (D. H. Bremner et al., Synthesis, 1997, 949) (165 mg, 1.08 mmol) were stirred in DMSO (20 mL) and sodium hydride (52 mg, 1.3 mmol) added portionwise. After evolution of gases had finished the reaction mixture was heated for 4 h at 80° C. After this time the reaction mixture was added to ice (50 mL) and a precipitate formed. This was filtered and purified by preparative HPLC (pH 10, 2-3 min) to give the title compound as a white powder (30 mg, 9%). δH (DMSO-d6) 10.45 (1H, s), 8.31 (1H, d, J 3.9 Hz), 7.75 (2H, m), 7.51-7.38 (3H, m). LCMS (ES+) RT 3.49 minutes, 350 (M+H)+.

reactant | 4-Bromo-2-fluoro-1-isothiocyanatobenzene | 1.08 mmol, 250 mg | BrC1=CC(=C(C=C1)N=C=S)F | C7H3BrFNS
reactant | (2-chloropyridin-3-yl)acetonitrile | 1.08 mmol, 165 mg | ClC1=NC=CC=C1CC#N | C7H5ClN2
reactant | sodium hydride | 1.3 mmol, 52 mg | [H-].[Na+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 2-[(4-Bromo-2-fluorophenyl)amino]thieno[2,3-b]pyridine-3-carbonitrile | 30 mg, 9% | BrC1=CC(=C(C=C1)NC1=C(C=2C(=NC=CC2)S1)C#N)F | C14H7BrFN3S
